US07776896B2
A solution of adiponitrile (249 g, 2.3 mol) in DMF (400 mL) was stirred as sodium azide (30 g, 460 mmol) and ammonium chloride (24.7 g, 461 mmol) were added. The reaction was heated at 120° C. for 48 h. The reaction was allowed to cool and concentrated. The residue was dissolved in aqueous ether. The aqueous layer was washed with ether (2×). The combined ether layers were concentrated to afford 1H-tetrazole-5-pentanenitrile as a white solid.

reactant | adiponitrile | 2.3 mol, 249 g | C(CCCCC#N)#N | C6H8N2
reactant | sodium azide | 460 mmol, 30 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 461 mmol, 24.7 g | [Cl-].[NH4+]
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 1H-tetrazole-5-pentanenitrile | N1N=NN=C1CCCCC#N | C6H9N5
